US05106732
4-(4-Benzyloxyphenyl)oxazole (360mg) was dissolved in methanol (10 ml). 5% Palladium on carbon (containing 50% water) (300 mg) was added to the solution, and the mixture was subjected to catalytic reduction for 80 minutes. The catalyst was filtered off from the reaction mixture, and the filtrate was concentrated. The residue was purified by column chromatography on silica gel [eluting solvent: ethyl acetate-hexane (1:2)] to give 4-(4-hydroxyphenyl)oxazole (105 mg, 45.5%). The product was further purified by recrystallization from diethyl ether-hexane. m.p. 147.5°-148° C.

reactant | 4-(4-Benzyloxyphenyl)oxazole | 360mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N=COC1 | C16H13NO2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium on carbon | 300 mg | [Pd] | Pd
product | 4-(4-hydroxyphenyl)oxazole | 105 mg, 45.5% | OC1=CC=C(C=C1)C=1N=COC1 | C9H7NO2
